US07135480B2
3-Cyano-1-(4-pyrazol-1-yl-benzoyl)-pyrrolo[1,2-a]quinoline
The title compound was prepared as described for Example 21, using (4-fluoro-benzoyl)-pyrrolo[1,2-a]quinoline-3-carbonitrile (50 mg, 0.16 mmol) and pyrazole, and yielded 44.9 mg (78%). 1H NMR (CDCl3): 8.19 (m, 2H), 8.07 (m, 2H), 7.93 (m, 2H), 7.85 (dd, J=9.6, 1.8 Hz, 1H), 7.82 (d, J=2.1 Hz, 1H), 7.71 (m, 2H), 7.58 (m, 2H), 7.44 (s, 1H), 6.56 (t, J=2.1 Hz, 1H).

reactant | (4-fluoro-benzoyl)-pyrrolo[1,2-a]quinoline-3-carbonitrile | 0.16 mmol, 50 mg | FC1=CC=C(C(=O)C2=CC(=C3N2C2=CC=CC=C2C=C3)C#N)C=C1 | C20H11FN2O
reactant | pyrazole | N1N=CC=C1 | C3H4N2
product | 3-Cyano-1-(4-pyrazol-1-yl-benzoyl)-pyrrolo[1,2-a]quinoline | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)N2N=CC=C2)=O | C23H14N4O
